### PR TITLE
[Merged by Bors] - chore: add missing deprecations

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
From #23643, #23804, #24762, #24827, #24833, and #25016.

---

Maybe for some of those there could be reasons to argue that a deprecation is not terribly useful, but adding them is so cheap that I don't think it's worth spending much time arguing about it.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean [hunk 1]
```diff
@@ -372,6 +372,16 @@ lemma tendsto_mul_log_one_add_of_tendsto {g : ℝ → ℝ} {t : ℝ}
   filter_upwards [hg0.eventually_const_le (show (-1 : ℝ) < 0 by norm_num)] with x hg1
   rw [Complex.ofReal_log (by linarith), Complex.ofReal_add, Complex.ofReal_one]
 
+theorem tendsto_mul_log_one_add_div_atTop (t : ℝ) :
```
Comment (grunweg) [inline Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean:375]: For other reviewers wondering: this lemmas was removed in #23804.

**Review by grunweg — COMMENTED** [review]
Thanks for this PR, this is great! (Sorry that you had to wait for so long.)

You're missing two deprecations added in the PRs you're referencing. Would you like to add them as well?
AlgHom.card_of_powerBasis -> AlgHom.natCard_of_powerBasis (in #25253)
mem_iff_ofSubtype_apply_mem -> ofSubtype_apply_mem_iff_mem (in #24833)

maintainer delegate
(so you have a chance to add those as well)

File: Mathlib/RingTheory/Ideal/Operations.lean [hunk 2]
```diff
@@ -1308,3 +1308,7 @@ lemma Ideal.exists_subset_radical_span_sup_of_subset_radical_sup {R : Type*} [Co
   choose m a b ha hb heq using hs
   refine ⟨a, by rwa [Set.range_subset_iff], fun z hz ↦ ⟨m ⟨z, hz⟩, heq ⟨z, hz⟩ ▸ ?_⟩⟩
   exact Ideal.add_mem _ (mem_sup_left (subset_span ⟨⟨z, hz⟩, rfl⟩)) (mem_sup_right <| hb _)
+
+@[deprecated (since := "2025-05-13")]
```
Comment (Vierkantor) [inline Mathlib/RingTheory/Ideal/Operations.lean:1312]: I don't know how much use a deprecation is for a lemma that was around for about two days. We can keep it, now it exists, but please do not feel a strong need to spend time on that in the future :)

**Review by Vierkantor — APPROVED** [review]
bors d+

**Comment by kbuzzard** [comment]
bors merge

Thanks!
